US05807864
3-(2,6-Dimethylphenyl)-1-ethyl-2-thioxotetrahydropyrimidin-4-one
3-[3-(2,6-dimethylphenyl)-1-ethyl-thioureido]propionic acid (12 g) was dissolved in acetone (245 mL). Conc. HCl (5 mL) was added and the mixture was heated at reflux for 18 hours. The reaction mixture was evaporated to dryness. The residue was dissolved in methylene chloride (100 mL), and washed with 1N NaOH. The organic phase was dried over anhydrous magnesium sulfate, then evaporated to dryness. The solid was recrystallized from ethyl acetate to give the title compound (5.3 g) as a white solid, m.p. 124°-126° C.

reactant | 3-[3-(2,6-dimethylphenyl)-1-ethyl-thioureido]propionic acid | 12 g | CC1=C(C(=CC=C1)C)NC(N(CC)CCC(=O)O)=S | C14H20N2O2S
reactant | HCl | 5 mL | Cl | ClH
solvent | acetone | 245 mL | CC(=O)C | C3H6O
product | 3-(2,6-Dimethylphenyl)-1-ethyl-2-thioxotetrahydropyrimidin-4-one | 5.3 g | CC1=C(C(=CC=C1)C)N1C(N(CCC1=O)CC)=S | C14H18N2OS
